US08802674B2
To a suspension of 2-fluoro-3-methoxy-4-nitrobenzoic acid (180 mg, 0.97 mmol) in DCM (8 mL) was added morpholine (0.17 mL. 1.9 mmol), DIEA (0.25 mL) and HBTU (0.4 g, 1.05 mmol). The reaction was stirred at room temperature for 18 hours. The reaction was then diluted with water and extracted with DCM (3×). The combined extracts were washed with water, dried over Na2SO4, filtered and concentrated. The crude product was purified by flash chromatography to give (2-fluoro-3-methoxy-4-nitrophenyl)(morpholino)methanone (0.20 g, 83%).

reactant | 2-fluoro-3-methoxy-4-nitrobenzoic acid | 0.97 mmol, 180 mg | FC1=C(C(=O)O)C=CC(=C1OC)[N+](=O)[O-] | C8H6FNO5
reactant | morpholine | 1.9 mmol, 0.17 mL | N1CCOCC1 | C4H9NO
reactant | DIEA | 0.25 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 1.05 mmol, 0.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (2-fluoro-3-methoxy-4-nitrophenyl)(morpholino)methanone | 0.20 g, 83% | FC1=C(C=CC(=C1OC)[N+](=O)[O-])C(=O)N1CCOCC1 | C12H13FN2O5
